US07683017B2
Step 2—Preparation of N,N-di-n-hexylbenzene-1,4-diamine
A solution of 25.0 grams of N,N-di-n-hexyl-N-(4-nitrophenyl)amine in 100 ml of ethyl acetate containing 3.02 grams of 10% palladium on activated charcoal was hydrogenated at 40 psi for 1.5 hours. The solution was filtered and concentrated in vacuo to yield 23.2 grams of product as a colorless oil. 1H NMR (CDCl3) δ 6.4(AB quartet, 4H), 3.3(bs, 2H), 3.15(t, 4H), 1.5(pent, 4H), 1.2-1.4(m, 12H), 0.9(t, 6H).

reactant | N,N-di-n-hexyl-N-(4-nitrophenyl)amine | 25.0 grams | C(CCCCC)N(C1=CC=C(C=C1)[N+](=O)[O-])CCCCCC | C18H30N2O2
solvent | ethyl acetate | 100 ml, 3.02 grams | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated charcoal | [Pd] | Pd
product | N,N-di-n-hexylbenzene-1,4-diamine | 23.2 grams | C(CCCCC)N(C1=CC=C(C=C1)N)CCCCCC | C18H32N2
